US05753664
3,5-Dimethyl-2-[4-[4-(2-piperidinoethoxy)benzoyl]-benzylthio]-4(3H)-quinazolinone hydrochloride
A solution of 2-[4-(4-hydroxybenzoyl)benzylthio]-3,5-dimethyl-4(3H)-quinazolinone (399 mg), 1-(2-chloroethyl)piperidine hydrochloride (185 mg) and potassium carbonate (392 mg) in DMF (5 ml) was stirred at 60° C. for 62 hours. This reaction mixture was concentrated and the residue was dissolved in ethyl acetate, washed with water, and dried. Then, hydrogen chloride/ethyl acetate was added and the precipitated hydrochloride was recovered by filtration to provide the title compound as colorless solid (368 mg).

reactant | 2-[4-(4-hydroxybenzoyl)benzylthio]-3,5-dimethyl-4(3H)-quinazolinone | 399 mg | OC1=CC=C(C(=O)C2=CC=C(CSC3=NC4=CC=CC(=C4C(N3C)=O)C)C=C2)C=C1 | C24H20N2O3S
reactant | 1-(2-chloroethyl)piperidine hydrochloride | 185 mg | Cl.ClCCN1CCCCC1
reactant | potassium carbonate | 392 mg | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | 3,5-Dimethyl-2-[4-[4-(2-piperidinoethoxy)benzoyl]-benzylthio]-4(3H)-quinazolinone hydrochloride | 368 mg | Cl.CN1C(=NC2=CC=CC(=C2C1=O)C)SCC1=CC=C(C=C1)C(C1=CC=C(C=C1)OCCN1CCCCC1)=O | InChI=1S/C31H33N3O3S.ClH/c1-22-7-6-8-27-28(22)30(36)33(2)31(32-27)38-21-23-9-11-24(12-10-23)29(35)25-13-15-26(16-14-25)37-20-19-34-17-4-3-5-18-34;/h6-16H,3-5,17-21H2,1-2H3;1H
